US07125900B2
N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-4-bromo-2,5-difluorobenzenesulfonamide
The title compound was prepared from 5-acetyl-2-amino-4-methylthiazole (42 mg) and 4-bromo-2,5-difluorobenzenesulfonyl chloride (79 mg) as described in the synthetic METHOD B to give a white solid (21.0 mg) with purty >90%: MS (pos) m/z 411.2, 413.2.

reactant | 5-acetyl-2-amino-4-methylthiazole | 42 mg | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 4-bromo-2,5-difluorobenzenesulfonyl chloride | 79 mg | BrC1=CC(=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
product | N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-4-bromo-2,5-difluorobenzenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=C(C=C(C(=C1)F)Br)F)C | C12H9BrF2N2O3S2
